US04929741
8.7 ml of n-butyllithium solution (1.6M in hexane) were added at -78° to a solution of 3.0 g (13.5 mmol) of 1-(3,4,5-trimethoxyphenyl)-2-propyn-1-ol in 40 ml of ether. The reaction mixture was brought to -30°, whereupon 1.8 ml (14.2 mmol) of freshly distilled trimethylsilyl chloride were added at -30°. Thereafter, the mixture was warmed to 0°. stirred and cooled to -78° for 1 hour, whereupon 7.8 ml of n-butyllithium solution (1.6M in hexane) were added. The reaction mixture was stirred at -30° for 1 hour and then treated at -30° with 2.77 ml (20.25 mmol) of butyl chloroformate, whereupon the mixture was stirred at -30° for 30 minutes and at 0° for 1 hour and 150 ml of 1N hydrochloric acid and 150 ml of ethyl acetate were added. Subsequently. 30 ml of 25% hydrochloric acid were added, the mixture was shaken vigorously for 10 minutes in a separating funnel, the aqueous phase was extracted twice with ethyl acetate, the combined organic phases were dried over magnesium sulphate and the solvent was distilled off. The crude product which remained behind as the residue was taken up in 10 ml of methylene chloride and added dropwise at 0° to a suspension 35.2 g (0.405 mol) of manganese dioxide in 50 ml of methylene chloride The reaction mixture was stirred at 0° for 1.5 hours, filtered over magnesium sulphate and evaporated. After chromatography of the residue on silica gel with ethyl acetate/hexane (1:4) there was obtained butyl 3-(3,4,5-trimethoxybenzoyl)propiolate as a pale yellowish oil.

reactant | n-butyllithium | 1.6M, 8.7 ml | C(CCC)[Li]
reactant | 1-(3,4,5-trimethoxyphenyl)-2-propyn-1-ol | 13.5 mmol, 3.0 g | COC=1C=C(C=C(C1OC)OC)C(C#C)O | C12H14O4
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
reactant | n-butyllithium | 1.6M, 7.8 ml | C(CCC)[Li]
reactant | butyl chloroformate | 20.25 mmol, 2.77 ml | ClC(=O)OCCCC | C5H9ClO2
reactant | hydrochloric acid | 1N, 150 ml | Cl | ClH
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 0.405 mol, 35.2 g | [O-2].[O-2].[Mn+4]
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | butyl 3-(3,4,5-trimethoxybenzoyl)propiolate | COC=1C=C(C(=O)C#CC(=O)OCCCC)C=C(C1OC)OC | C17H20O6
